US06673780B2
To a solution of 5-(5-hydroxy-4-methyl-4-phenylpentylsulfanyl)-2-methyl-2-phenylpentan-1-ol (3.37 g, 8.14 mmol) in glacial acetic acid (100 mL) was added 50% aqueous hydrogen peroxide solution (0.55 g, 8.14 mmol) drop-wise at rt over 5 min. The reaction mixture was stirred at rt for 3 h, while the reaction progress was monitored by TLC (dichloromethane/ethyl acetate=2/1). The reaction mixture was concentrated to yield a crude product (3.5 g) that was purified by column chromatography on silica gel (dichloromethane, then dichloromethane/ethyl acetate=1/1, followed by dichloromethane/ethanol=1/1). The product-containing fractions were concentrated and dried at 120° C. under high vacuo for 2.5 h to give 5-(5-hydroxy-4-methyl-4-phenylpentylsulfinyl)-2-methyl-2-phenylpentan-1-ol (2.55 g, 71%) as colorless, viscous oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.30 (m, 8 H), 7.20 (m, 2 H), 3.66-3.56 (m, 4 H), 2.54-2.38 (m, 4 H), 2.13 (br., 2 H), 1.90-1.43 (m, 8 H), 1.33 (s, 6 H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 144.56, 128.68, 126.66, 126.62, 126.62, 71.82, 71.57, 52.92, 43.38, 43.35, 37.56, 37.43, 22.14, 21.77, 17.87, 17.71. HRMS (LSIMS, gly): Calcd. for C24H35O3S1 (MH+): 403.2307, found: 403.2295.

reactant | 5-(5-hydroxy-4-methyl-4-phenylpentylsulfanyl)-2-methyl-2-phenylpentan-1-ol | 8.14 mmol, 3.37 g | OCC(CCCSCCCC(CO)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C | C24H34O2S
reactant | hydrogen peroxide | 8.14 mmol, 0.55 g | OO | H2O2
reactant | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 5-(5-hydroxy-4-methyl-4-phenylpentylsulfinyl)-2-methyl-2-phenylpentan-1-ol | 2.55 g, 71% | OCC(CCCS(=O)CCCC(CO)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C | C24H34O3S
